US04720559
2-allyloxy-Z-cinnamic acid (Intermediate)
A slurry of coumarin (14.6 g, 0.10 mol) and potassium hydroxide (83 g, 1.48 mol) in 300 mL dimethyl sulfoxide was stirred at ambient temperature for 4 hours. Allyl bromide (8.66 mL, 0.10 mol) was added over 5 minutes and the reaction stirred at ambient temperature for 30 minutes. The mixture was poured into ice water, the solution filtered and then acidified (pH<3.0) with hydrochloric acid. The solid was filtered, air dried, then recrystallized from methlcyclohexane to yield cream needles (12.04 g, 59.0%), mp 80°-82° C.

reactant | coumarin | 0.10 mol, 14.6 g | O1C(=O)C=CC2=CC=CC=C12 | C9H6O2
reactant | potassium hydroxide | 1.48 mol, 83 g | [OH-].[K+]
reactant | Allyl bromide | 0.10 mol, 8.66 mL | C(C=C)Br | C3H5Br
solvent | dimethyl sulfoxide | 300 mL | CS(=O)C | C2H6OS
product | 2-allyloxy-Z-cinnamic acid | 12.04 g, 59.0% | C(C=C)OC1=C(\C=C/C(=O)O)C=CC=C1 | C12H12O3
